US04594197
To a solution of 2.52 g of 2-acetylthio-3-benzoylpropionic acid in 20 ml of glacial acetic acid was added 4 ml of 10N sulfuric acid, and the mixture was refluxed at heating with stirring for 2 hours. The acetic acid was removed from the mixture by evaporation under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with water and dried over magnesium sulfate, and the ethyl acetate was removed from the mixture by evaporation. The residue was purified by silica gel column chromatograpy using a mixture of hexane and chloroform as an eluent, and then recrystallized from a mixture of hexane and diethyl ether to give 1.76 g of 3-benzoyl-2-mercaptopropionic acid.

reactant | 2-acetylthio-3-benzoylpropionic acid | 2.52 g | C(C)(=O)SC(C(=O)O)CC(C1=CC=CC=C1)=O | C12H12O4S
reactant | sulfuric acid | 10N, 4 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-benzoyl-2-mercaptopropionic acid | 1.76 g | C(C1=CC=CC=C1)(=O)CC(C(=O)O)S | C10H10O3S
